US09302996B2
By using 4-chloro-3-ethylphenol (2000 mg) and methyl hydroxypivalate (2025 mg), the procedure was carried out in the same manner as in Example 1-1) to obtain methyl 3-(4-chloro-3-ethylphenoxy)-2,2-dimethylpropanoate (2951 mg).

reactant | 4-chloro-3-ethylphenol | 2000 mg | ClC1=C(C=C(C=C1)O)CC | C8H9ClO
reactant | methyl hydroxypivalate | 2025 mg | OCC(C(=O)OC)(C)C | C6H12O3
product | methyl 3-(4-chloro-3-ethylphenoxy)-2,2-dimethylpropanoate | 2951 mg | ClC1=C(C=C(OCC(C(=O)OC)(C)C)C=C1)CC | C14H19ClO3
